US07893058B2
Step 1: 2-[1-(4-Nitro-phenyl)-1H-[1,2,3]triazol-4-yl]-pyridine
A mixture of 1-iodo-4-nitrobenzene (0.513 g, 2.06 mmol), 2-ethynyl pyridine (0.208 mL, 2.06 mmol), L-proline (47.4 mg, 0.412 mmol), Na2CO3 (43.7 mg, 0.412), NaN3 (0.1607g, 2.47 mmol), (+)-sodium-L-ascorbate (40.8 mg, 0.206 mmol), copper (II) sulphate pentahydrate (16.4 mg, 0.103 mmol) in 9:1 DMSO-water (4 mL) is stirred in a stem-tube at 65° C. for 24 hours. After cooling, the reaction mixture is poured into ice-water (100 mL) and the resulting precipitate is collected by filtration, washed with 7% aq. NH3 and dried in vacuo to give the title compound as a brown solid (0.323 g, 59%). HPLC (254 nm) Rt 2.36 min (89%).

reactant | 1-iodo-4-nitrobenzene | 2.06 mmol, 0.513 g | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | 2-ethynyl pyridine | 2.06 mmol, 0.208 mL | C(#C)C1=NC=CC=C1 | C7H5N
reactant | L-proline | 0.412 mmol, 47.4 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | Na2CO3 | 43.7 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaN3 | 2.47 mmol, 0.1607g | [N-]=[N+]=[N-].[Na+]
reactant | (+)-sodium L-ascorbate | 0.206 mmol, 40.8 mg | [Na].O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO
catalyst | copper (II) sulphate pentahydrate | 0.103 mmol, 16.4 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
solvent | DMSO water | 4 mL | CS(=O)C.O
product | 2-[1-(4-Nitro-phenyl)-1H-[1,2,3]triazol-4-yl]-pyridine | 0.323 g, 59% | [N+](=O)([O-])C1=CC=C(C=C1)N1N=NC(=C1)C1=NC=CC=C1 | C13H9N5O2
